US08022062B2
Degas a stirred mixture of 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (212 mg, 0.424 mmol), 5-fluoro-2-methoxybenzene boronic acid (108 mg, 0.636 mmol), potassium carbonate (292 mg, 2.12 mmol), triphenylphosphine (11 mg, 0.0424 mmol) and bis(triphenylphosphine)-palladium(II) chloride (15 mg, 0.0212 mmol) in dioxane (3 mL) and water (1 mL). Purge with dry nitrogen and heat at 100° C. for 5 h. Cool to ambient temperature, add water, extract three times with EtOAc, dry over anhydrous Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(2,5′-difluoro-2′-methoxy-biphenyl-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as yellow oil (216 mg, 93%). Use a method similar to the General Procedure 1-4 to give the title compound as a yellow foam. MS (ES+) m/z: 446 (M+H)+.

reactant | 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.424 mmol, 212 mg | BrC1=C(C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1)F | C22H24BrClFNO2S
reactant | 5-fluoro-2-methoxybenzene boronic acid | 0.636 mmol, 108 mg | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
reactant | potassium carbonate | 2.12 mmol, 292 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 0.0424 mmol, 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.0212 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-tert-butoxycarbonyl-7-chloro-6-(2,5′-difluoro-2′-methoxy-biphenyl-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 216 mg, 93% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C2=C(C=CC(=C2)F)OC)F | C29H30ClF2NO3S
